US07138420B2
N-(4-fluoro-3-nitro-phenyl)-N-methyl-benzamide (1.47 g, 5.37 mmol) was taken up in dry acetonitrile under argon, DIEA (2.08 g, 16.11 mmol, 2.80 ml) and β-alanine amide hydrochloride (1.00 g, 8.06 mmol) were added. The reaction mixture was heated to 80° C. for 48 h. The reaction was poured into 1N HCl and the aqueous layer was extracted 3× with ethyl acetate. The combined organic layers were washed with water, brine and dried over magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The residue was triturated twice with cold hexane and dried to give N-[4-(2-carbamoyl-ethylamino)-3-nitro-phenyl]-N-methyl-benzamide. (1.75 g, 95%)

reactant | N-(4-fluoro-3-nitro-phenyl)-N-methyl-benzamide | 5.37 mmol, 1.47 g | FC1=C(C=C(C=C1)N(C(C1=CC=CC=C1)=O)C)[N+](=O)[O-] | C14H11FN2O3
reactant | DIEA | 16.11 mmol, 2.80 ml, 2.08 g | CCN(C(C)C)C(C)C | C8H19N
reactant | β-alanine amide hydrochloride | 8.06 mmol, 1.00 g | Cl.NCCC(=O)N
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[4-(2-carbamoyl-ethylamino)-3-nitro-phenyl]-N-methyl-benzamide | C(N)(=O)CCNC1=C(C=C(C=C1)N(C(C1=CC=CC=C1)=O)C)[N+](=O)[O-] | C17H18N4O4
